US06818631B1
5-Iodo-4-methoxy-2-methyl-6-trifluoromethylpyrimidine (5.0 g) was dissolved in DMF (50 ml) and N,N-diisopropylethylamine (6.5 g), copper(I) iodide (0.3 g), dichlorobis(triphenylphosphine)palladium(II) (1.12 g) and trimethylsilylacetylene (15.4 g) was added at room temperature with stirring. The mixture was heated (50° C.) in nitrogen atmosphere for 7 hr and cool to room tempeature. The reaction mixture was added methyl tert-butyl ether (MTBE) (200 ml). The insoluble matter was removed by filtration through Celite and the filtrate was washed with water and brine, respectively. The MTBE solution was dried over magnesium sulfate and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give crude 4-methoxy-2-methyl-6-trifluoromethyl-5-trimethylsilylethynylpyrimidine (5.3 g) as pale yellow oil. This crude 4-methoxy-2-methyl-6-trifluoromethyl-5-trimethylsilylethynylpyrimidine (5.2 g) was dissolved in THF (100 ml) and tetrabutylammonium fluoride (1M THF solution, 18 ml) was added under ice cooling with stirring. After stirring 30 min at this temperature, the reaction mixture was added water in one portion under ice cooling and extracted with ethyl acetate. The ethyl acetate layer was washed with water and brine, respectively and dried over magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane ethyl acetate) to give 5-ethynyl-4-methoxy-2-methyl-6-trifluoromethylpyrimidine (1.92 g) as colorless crystalline solid, mp 77° C.

reactant | 4-methoxy-2-methyl-6-trifluoromethyl-5-trimethylsilylethynylpyrimidine | 5.2 g | COC1=NC(=NC(=C1C#C[Si](C)(C)C)C(F)(F)F)C | C12H15F3N2OSi
reactant | tetrabutylammonium fluoride | 1M, 18 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 5-ethynyl-4-methoxy-2-methyl-6-trifluoromethylpyrimidine | 1.92 g | C(#C)C=1C(=NC(=NC1C(F)(F)F)C)OC | C9H7F3N2O
